US04382939
3-[2-(Ethylamino)propyl]-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one
A mixture of 1,2,3,4-tetrahydro-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one (18.2 g, 0.071 moles), ethylamine (10 ml, 0.153 moles), anhydrous calcium sulfate (15 g), and glacial acetic acid (1 ml) in tetrahydrofuran (450 ml) is shaken at 40° C. in a pressure vessel. After 18 hours the mixture is cooled and filtered. The filtrate is hydrogenated at 25° C. and 50 psi in the presence of 10% platinum or carbon until hydrogen uptake ceases. The catalyst is removed by filtration, and the filtrate is evaporated under reduced pressure. Recrystallization of the residue from ethyl acetate gave the product (10.5 g), mp 104°-105° C.

reactant | 1,2,3,4-tetrahydro-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.071 moles, 18.2 g | O=C(CN1CC2=C(CC1)C1=C(OC2=O)C=CC=C1)C | C15H15NO3
reactant | ethylamine | 0.153 moles, 10 ml | C(C)N | C2H7N
reactant | calcium sulfate | 15 g | S(=O)(=O)([O-])[O-].[Ca+2]
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
product | 3-[2-(Ethylamino)propyl]-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 10.5 g | C(C)NC(CN1CC2=C(CC1)C1=C(OC2=O)C=CC=C1)C | C17H22N2O2
